US07323475B2
b. 4-Hydroxy-1-methyl-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester
To a mixture of anhydrous 1,4-dioxane (200 ml), Pd(PPh3)4 (3.47 g, 3 mmol), trimethylboroxine (4.22 ml, 30 mmol), and K2CO3 (12.44 g, 90 mmol) was added a regioisomeric mixture of 1-chloro-4-hydroxy-6-phenoxy-isoquinoline-3-carboxylic acid butyl ester and 1-Chloro-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester (11.15 g, 30 mmol). The mixture was refluxed under N2-protection with stirring for 3 h and was then stirred at ambient temperature for 48 h. Subsequently, the mixture was concentrated in vacuo. To the residue was added water (100 ml) and the mixture was extracted with EtOAc (300 ml). The organic phase was dried over MgSO4 and evaporated in vacuo. Purification of the residue by flash column chromatography on silica gel using hexanes:EtOAc=9:1 as the eluent gave the title compound as a yellowish solid (4.40 g, first fraction); MS-(+)-ion M+1=352.1.

reactant | trimethylboroxine | 30 mmol, 4.22 ml | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 90 mmol, 12.44 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-4-hydroxy-6-phenoxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)OC1=CC=CC=C1)Cl | C20H18ClNO4
reactant | 1-Chloro-4-hydroxy-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester | 30 mmol, 11.15 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=CC=C1)Cl | C20H18ClNO4
catalyst | Pd(PPh3)4 | 3 mmol, 3.47 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-1-methyl-7-phenoxy-isoquinoline-3-carboxylic acid butyl ester | 4.40 g | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=CC=C1)C | C21H21NO4
